US07781452B2
(2b) 2-chloro-5-methylpyridine-1-oxide
Into a mixture of 2-chloro-5-methylpyridine (27.4 g, 215 mmol), urea hydrogen peroxide addition compound (42.5 g, 452 mmol), dichloromethane (250 ml) was added dropwise anhydrous trifluoroacetic acid (60.7 ml and 430 mmol) at 0° C., and the reaction mixture was stirred at 0° C. for 1 hour. Then, after stirring for 45 minutes while elevating the reaction temperature to room temperature, an aqueous solution (450 ml) of sodium hydrosulfite (45 g) was added, and the reaction mixture was stirred for 15 minutes. 0.5N hydrochloric acid (400 ml) was added and the mixture was extracted with dichloromethane (400 ml), and after washed with sodium bicarbonate solution, the mixture was dried over magnesium sulfate and the solvent was evaporated, thereby yielding the title compound (22.5 g, 157 mmol, 73%) as a beige solid.

reactant | 2-chloro-5-methylpyridine | 215 mmol, 27.4 g | ClC1=NC=C(C=C1)C | C6H6ClN
reactant | urea hydrogen peroxide | OO.NC(=O)N
reactant | trifluoroacetic acid | 430 mmol, 60.7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrosulfite | 450 ml, 45 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | 0.5N, 400 ml | Cl | ClH
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 2-chloro-5-methylpyridine-1-oxide | 157 mmol, 22.5 g, 73% | ClC1=[N+](C=C(C=C1)C)[O-] | C6H6ClNO
